US05223505
Ethyl 3-oxo-hexanoate (4.74 g; 30 mM) and N-ethylguanidine sulphate (4.08 g; 30 mM) were dissolved in a solution prepared by dissolving sodium (1.4 g; 0.65 g atom) in ethanol (100 ml) and the mixture was heated under reflux on the steam bath for 18 hours. Acetic acid (5 ml) was added to the cooled mixture which was stirred for 10 minutes. Insoluble material was removed by filtration and the filtrate was evaporated. The residue was partitioned between water (50 ml) and methylene chloride (50 ml). The aqueous layer was extracted twice with methylene chloride (50 ml). The combined extracts were dried and the solvent evaporated. The residue was crystallised from cyclohexane to give 2-ethylamino-4-hydroxy-6-propylpyrimidine as a solid (4.6 g; 85% yield), m.p. 108°-110° C.

reactant | Ethyl 3-oxo-hexanoate | 30 mM, 4.74 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | N-ethylguanidine sulphate | 30 mM, 4.08 g | S(=O)(=O)(O)O.C(C)NC(=N)N
reactant | sodium | 1.4 g | [Na] | Na
reactant | Acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-ethylamino-4-hydroxy-6-propylpyrimidine | 85% yield | C(C)NC1=NC(=CC(=N1)O)CCC | C9H15N3O
